2107-12-04 08:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2107-12-4**] 06:23 AM
   - 2 units PRBC
   - 500cc NS
   - Abx given
   - To OR in AM; pt refused procedure tonight, impatient after waiting
   for so long and wanted to eat, threatened to leave AMA
   - Changed to regular diet; will hold tray until decided, so if does not
   go to OR, can eat later tonight.
   - [**3-19**] OSH bcx bottles grew GPC; [**12-19**] aerobic bottle here grew GPC
   - Ulytes c/w pre-renal; getting fluids already so will re-check in AM
   ***At surgery for spinal canal stenosis this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-3**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-4**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 61 (57 - 66) bpm
   BP: 143/65(83) {86/29(43) - 154/81(88)} mmHg
   RR: 19 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
             Total In:
                                                                  1,908 mL
                                                                    208 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,668 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    935 mL
   Urine:
                                                                    700 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,208 mL
                                                                   -727 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GEN
 unable to examine patient this AM as he was down at neurosurgical
   surgery. Will do post-op [**Year (4 digits) **] of patient upon his return to the ICU.
   CV
   PULM
   ABD
   EXTR
   Labs / Radiology
   166 K/uL
   9.4 g/dL
   158 mg/dL
   3.2 mg/dL
   22 mEq/L
   5.0 mEq/L
   66 mg/dL
   110 mEq/L
   140 mEq/L
   28.2 %
   9.0 K/uL
        [image002.jpg]
                            [**2107-12-3**]  09:14 AM
                            [**2107-12-3**]  11:59 AM
                            [**2107-12-4**]  06:15 AM
   WBC
   9.6
   9.0
   Hct
   27.8
   28.2
   Plt
   146
   166
   Cr
   3.1
   3.2
   Glucose
   156
   173
   158
   Other labs: PT / PTT / INR:12.5/32.5/1.1, ALT / AST:14/14, Alk Phos / T
   Bili:60/0.3, Albumin:2.5 g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
 EPIDUARL ABSCESS
   .
   ASSESSMENT/PLAN: 78 yoM with sig vascular risk factors, admitted with
   cauda equina syndrome and gram-positive cocci.  Ortho spine planning to
   do the surgery this morning.
   .
   #. CAUDA EQUINA SYNDROME: clinically with CEQ and decreased rectal tone
   and progresisve RLE weakness; prelim MRI read here with no epidural
   abscess though c/f epidural lipomatosis per ortho spine.  Per spine, sx
   are non-infectious (i.e., d/t worsening of his spinal stenosis and not
   d/t epidural abscesses).
   -- f/u post-op recs from spine surgery
   --  f/u blood cultures from OSH [**12-2**] and here
   -- will broadly cover with vanco/zosyn while awaiting speciation; will
   dose vanco by level;
   -- will notify ID about staph aureus blood cultures
   -- Tylenol for pain control
   .
   # GPC bacteremia: Unclear source/etiology.
   -- antibiotics as above
   -- f/u cultures
   .
   #. UTI: Cx at OSH, has urostomy. GNR.
   -- f/u blood and urine cultures
   -- broadly covering per above
   .
   #. CAD: cards recs in chart and below; high risk for an intermediate
   risk surgery.  hct 32 on admission
   -- carvedilol to 25 mg [**Hospital1 7**]
   -- start atorvastatin 80 mg daily
   -- cont Imdur 30 mg daily
   -- hold lisinopril for now and assess post-operative Cr prior to
   restarting
   -- cont aspirin unless surgical contraindication (already got dose in
   ED)
   -- can hold plavix for now but given long half life effects will be
   present despite this (when to restart?)
   -- intensive insulin therapy perioperatively
   -- will order TTE and P-MIBI for pre-op [**Last Name (LF) **], [**First Name3 (LF) **] cards
 not done
   pre-op, so will discuss need for this in post-op period versus passing
   on this [**First Name3 (LF) **]
   -- will hold on restarting lasix
   .
   #. CKI: unclear baseline; currently in mid-2's
   -- dose vanco by level (likely QOD)
   -- avoid nephrotoxins
   -- track daily Cr
   .
   #. HTN:
   -- borderline BP
   -- will cont beta-blocker & imdur
   -- also on amlodipine 10 mg QD, which will hold until surgery status
   for day determined
   -- follow-up BP post-op
   .
   #. NEUROPATHIC PAIN:
   -- cont home gabapentin 600mg QHS
   .
   #. DEPRESSION:
   -- cont home venlafaxine and citalopram
   .
   #. PMR:
   -- cont home prednisone 7.5 mg QD
   -- may need stress dose steroids peri-op; will monitor
   .
   #. DM: on NPH 12 units [**Hospital1 7**] at home
   -- will change to lantus 20 units QHS (underdosing in conversion) with
   SSI
   .
   #. FEN; NPO until surgery; then diabetic and cardiac diet as tolerated
   .
   #. ACCESS: PIV x 2
   .
   #. PPX:
   n        bowel regimen with senna/colace, no PPI indication currently,
   pneumoboots while awaiting surgery today
   n        ask neurosurg about post-op DVT prophylaxis
   preferences/recommendations
   n        PCA for pain-control post-op
   .
   #. ICU CONSENT: signed on [**12-3**] on admission
   .
   #. CODE: FULL
 follow-up with spine team re; code reversal for
   peri-operative period.
   .
   #. DISPO: remaining in ICU for neuro checks but medically stable for
   floor; will return to MICU post-op, per spine team
   ICU Care
   Lines:
   18 Gauge - [**2107-12-3**] 10:45 AM
   20 Gauge - [**2107-12-4**] 04:41 AM
   Code status: Full code

2107-12-04 12:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo man with CHF, DM, PVD, tobacco use, presents with LB pain.  Found
   to have spinal stenosis and blood cx positive for GPCs.
   24 Hour Events:
 BLOOD CULTURED - At [**2107-12-4**] 06:23 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-3**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-4**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 61 (57 - 66) bpm
   BP: 143/65(83) {107/37(57) - 154/81(88)} mmHg
   RR: 19 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 77 Inch
             Total In:
                                                                  1,908 mL
                                                                    251 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,668 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                  1,135 mL
   Urine:
                                                                    700 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,208 mL
                                                                   -884 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.34/39/214/22/-4
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   166 K/uL
   167 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.6 mEq/L
   66 mg/dL
   110 mEq/L
   138 mEq/L
   29
   9.0 K/uL
        [image002.jpg]
                            [**2107-12-3**]  09:14 AM
                            [**2107-12-3**]  11:59 AM
                            [**2107-12-4**]  06:15 AM
                            [**2107-12-4**]  10:20 AM
   WBC
   9.6
   9.0
   Hct
   27.8
   28.2
   29
   Plt
   146
   166
   Cr
   3.1
   3.2
   TCO2
   22
   Glucose
   156
   173
   158
   167
   Other labs: PT / PTT / INR:12.5/32.5/1.1, ALT / AST:14/14, Alk Phos / T
   Bili:60/0.3, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:219 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
   Spinal stenosis:  went to OR today.
   Staph aureus bactermia:  unclear source.  Will need TEE/TTE.
   Chronic renal failure:  creatinine is a little high - will give some
   IVF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-12-3**] 10:45 AM
   20 Gauge - [**2107-12-4**] 04:41 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2107-12-05 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo man s/p T12-L3 laminectomy.  Also found to have GPC bacteremia.
   Had EKG last night with Tw inversions laterally.  Patient asymptomatic.
   24 Hour Events:
 OR SENT - At [**2107-12-4**] 08:30 AM
 OR RECEIVED - At [**2107-12-4**] 12:35 PM
 ARTERIAL LINE - START [**2107-12-4**] 12:40 PM
 EKG - At [**2107-12-4**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-3**] 04:00 PM
   Ciprofloxacin - [**2107-12-4**] 05:00 PM
   Nafcillin - [**2107-12-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   hep s/q
   morphine PCA
   ambien
   IMdur
   lipitor
   carvedilol
   effexor
   celexa
   gabapentin
   Prednisone 7.5mg
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2107-12-5**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 56 (52 - 65) bpm
   BP: 151/63(91) {116/44(68) - 158/66(94)} mmHg
   RR: 12 (10 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 77 Inch
             Total In:
                                                                  3,979 mL
                                                                    802 mL
   PO:
                                                                    720 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  2,485 mL
                                                                    302 mL
   Blood products:
                                                                    774 mL
   Total out:
                                                                  2,875 mL
                                                                    850 mL
   Urine:
                                                                  1,540 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
                                                                    135 mL
                                                                    150 mL
   Balance:
                                                                  1,104 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.34/39/214/21/-4
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   208 K/uL
   193 mg/dL
   3.3 mg/dL
   21 mEq/L
   5.2 mEq/L
   68 mg/dL
   112 mEq/L
   141 mEq/L
   28.2 %
   8.7 K/uL
        [image002.jpg]
                            [**2107-12-3**]  09:14 AM
                            [**2107-12-3**]  11:59 AM
                            [**2107-12-4**]  06:15 AM
                            [**2107-12-4**]  10:20 AM
                            [**2107-12-4**]  05:25 PM
                            [**2107-12-4**]  08:59 PM
                            [**2107-12-5**]  03:29 AM
   WBC
   9.6
   9.0
   7.5
   8.7
   Hct
   27.8
   28.2
   29
   27.1
   28.2
   Plt
   146
   166
   159
   208
   Cr
   3.1
   3.2
   3.4
   3.3
   TropT
   0.32
   0.30
   TCO2
   22
   Glucose
   156
   173
   158
   167
   312
   193
   Other labs: PT / PTT / INR:12.9/32.2/1.1, CK / CKMB /
   Troponin-T:171/4/0.30, ALT / AST:14/14, Alk Phos / T Bili:60/0.3,
   Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:219 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 .H/O MYOCARDIAL INFARCTION
 BACTEREMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
   Spinal stenosis:  s/p laminectomy.  Doing well
   MSSA bacteremia:  continue nafcillin.  TTE with no evidence of
   endocarditis.  He will need TEE.
   UTI: on cipro
   CAD:  will discuss with cardiology about holding ASA and plavix.
   CHF:  continue statin, carvedilol.  Lisinopril on hold
   Acute on chronic renal failure:  Creatinine is slightly elevated, hold
   lisinopril for now
   HTN: beta blocker and imdur.  can add back norvasc
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-12-3**] 10:45 AM
   20 Gauge - [**2107-12-4**] 04:41 AM
   Arterial Line - [**2107-12-4**] 12:40 PM
   16 Gauge - [**2107-12-4**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes